US08048887B2
5-(3-(4,4-Dimethyl-4,5-dihydrooxazol-2-yl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide
Zinc chloride (1 mg) was added to a stirring solution of 5-(3-cyanophenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (40 mg, 0.108 mmol) and 2-amino-2-methylpropan-1-ol (10 mg, 0.108 mmol) in PhCl (3 mL) at 130° C. It was allowed to stir for 7 days. ˜20% conversion was observed. Additional amounts of ZnCl (8 mg) and 2-amino-2-methylpropan-1-ol (50 mg) were added and the reaction was heated in the microwave for 1 hr at 200° C. The reaction had progressed-50%. The mixture was concentrated and purified on silica gel (BIOTAGE®, EtOAc/hexanes gradient, Rf˜0.2 in 50% EtOAc/hexanes; fraction collection at λ=254 nm) followed by preparative reverse phase HPLC on a C18 column using a suitably buffered H2O/CH3CN gradient, and concentrated to give the titled compound (7 mg, 14%). 1H NMR (500 MHz, CD3OD) δ ppm 8.24 (1H, s), 7.97 (2H, dd, J=8.09, 5.65 Hz), 7.93 (1H, s), 7.88 (2H, dd, J=11.44, 8.39 Hz), 7.68 (2H, s), 7.57 (1H, t, J=7.78 Hz), 7.27 (2H, t, J=8.55 Hz), 4.25 (2H, s), 2.99 (3H, s), 1.42 (6H, s). LC-MS retention time 1.60 min; m/z (MH+): 443. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters XBridge 5u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 5% acetonitrile/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% acetonitrile/10 mM ammonium acetate. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. Additional HPLC method: Solvent A=5% CH3CN/95% H2O/0.1% TFA, Solvent B=95% CH3CN/5% H2O/0.1% TFA, Start % B=10, Final % B=100, Gradient time=15 min, Stop time=18 min, Flow Rate=1 ml/min. Column: Waters Sunfire C-18, 4.6×150 mm, 3.5 μm, Rt=12.24 min, purity=95%; Column: Waters XBridge phenyl column 4.6×150 mm, 3.5 μm, Rt=10.02 min, purity=95%.

reactant | 5-(3-cyanophenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.108 mmol, 40 mg | C(#N)C=1C=C(C=CC1)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1 | C23H15FN2O2
reactant | 2-amino-2-methylpropan-1-ol | 0.108 mmol, 10 mg | NC(CO)(C)C | C4H11NO
reactant | 2-amino-2-methylpropan-1-ol | 50 mg | NC(CO)(C)C | C4H11NO
solvent | PhCl | 3 mL | C1(=CC=CC=C1)Cl | C6H5Cl
catalyst | Zinc chloride | 1 mg | [Cl-].[Zn+2].[Cl-]
product | 5-(3-(4,4-Dimethyl-4,5-dihydrooxazol-2-yl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 7 mg, 14% | CC1(N=C(OC1)C=1C=C(C=CC1)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1)C | C27H23FN2O3
